US06313126B1
4-(6-methoxy-2-methylquinolin-8-yl)piperazine
A mixture of 1-benzyl-4-(6-methoxy-2-methylquinolin-8-yl)piperazine (0.527 g, 1.52 mmol), 10% Pd/C (0.20 g), and ammonium formate (0.96 g, 15.2 mmol) in methanol (10 mL) were heated at reflux under N2 for 3 hours. TLC analysis (35% EtOAc/hexane) indicated only a trace of starting material remained. After cooling to room temperature, the reaction was filtered through celite, washing with excess methanol. The filtrate was concentrated, diluted with CH2Cl2 (50 mL), and washed with saturated aqueous NaHCO3. The aqueous layer was extracted with CH2Cl2 (2×50 mL). The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to afford 0.37 g (95%) of the title compound as a yellow oil, which was used in the subsequent reaction without purification.

reactant | 1-benzyl-4-(6-methoxy-2-methylquinolin-8-yl)piperazine | 1.52 mmol, 0.527 g | C(C1=CC=CC=C1)N1CCN(CC1)C=1C=C(C=C2C=CC(=NC12)C)OC | C22H25N3O
reactant | ammonium formate | 15.2 mmol, 0.96 g | C(=O)[O-].[NH4+]
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | 0.20 g | [Pd] | Pd
product | 4-(6-methoxy-2-methylquinolin-8-yl)piperazine | 0.37 g, 95% | COC=1C=C2C=CC(=NC2=C(C1)N1CCNCC1)C | C15H19N3O
